US05378420
Synthesis of 2,2'-dimethyl-4,4'-diaminobiphenyl (DMB)
A mixture of 40.0 grams, 0.30 moles, of m-nitrotoluene; 24 mL of a 20 percent aqueous solution of sodium hydroxide, and 120 mL ethanol is stirred and heated at gentle reflux. Zinc dust, 69.6 grams, is slowly added to keep the solution boiling without heating. Following addition of the zinc dust, the mixture is heated at reflux for about 4 hours. The hot mixture is filtered by suction, and the zinc residue is washed with ethanol. Concentrated hydrochloric acid is then slowly added to the filtrate. The precipitate formed is collected following filtration and redissolved in hot water. The aqueous solution is thereafter allowed to cool to room temperature and basified with a 20 percent aqueous solution of sodium hydroxide. The resulting DMB is an oil that is extracted with ethyl ether following its formation. Subsequent evaporation of the ethyl ether yields an oil containing 18.3 grams, 57.4 percent, of solids following cooling. Finally, the solid DMB is recrystallized from ethyl ether.

reactant | m-nitrotoluene | [N+](=O)([O-])C=1C=C(C=CC1)C | C7H7NO2
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | Zinc | [Zn] | Zn
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 2,2'-dimethyl-4,4'-diaminobiphenyl | CC1=C(C=CC(=C1)N)C1=C(C=C(C=C1)N)C | C14H16N2
